US03970704
To a solution of 0.5 g. of trans, trans 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoic acid in 15 ml. of benzene is added, with stirring, an equivalent amount of potassium hydride. The mixture is stirred at room temperature for about 2 hours and then evaporated to give potassium 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoate.

reactant | trans 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoic acid | COC(CCCC(C/C=C/C(=CC(=O)O)C)C)(C)C | C16H28O3
reactant | potassium hydride | [H-].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | potassium 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoate | COC(CCCC(CC=CC(=CC(=O)[O-])C)C)(C)C.[K+] | InChI=1S/C16H28O3.K/c1-13(10-7-11-16(3,4)19-5)8-6-9-14(2)12-15(17)18;/h6,9,12-13H,7-8,10-11H2,1-5H3,(H,17,18);/q;+1/p-1
